US05512431
Two hundred mL of dimethyl sulfoxide (DMSO) are added to a freshly prepared solution of sodium benzoylate (made from benzyl alcohol (75 mL) and sodium (2.14 g)) under an atmosphere of argon. 8-Bromodeoxyguanosine (10 g, 29 mmol) in DMSO (80 mL) is added to the resulting mixture and the reaction is heated to 65° C. for 24 hours. After cooling to room temperature, the reaction mixture is neutralized with glacial acetic acid and the DMSO is removed by vacuum distillation at 65° C. The remaining solution is poured into ether with stirring. The oily residue that remains after decanting off the ether is added to acetone and the resulting white precipitate is removed by filtration. After stirring with water, the slurry is filtered and the collected white solid recrystallized from methanol to give 8-(benzyloxy)-2'-deoxyguanosine.

reactant | sodium | [Na] | Na
reactant | benzyl alcohol | 75 mL | C(C1=CC=CC=C1)O | C7H8O
reactant | sodium | 2.14 g | [Na] | Na
reactant | 8-Bromodeoxyguanosine | 29 mmol, 10 g | BrC=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=C(NC(C2N1)=O)N | C10H12BrN5O4
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMSO | 80 mL | CS(=O)C | C2H6OS
solvent | dimethyl sulfoxide | Two hundred mL | CS(=O)C | C2H6OS
product | 8-(benzyloxy)-2'-deoxyguanosine | C(C1=CC=CC=C1)OC=1N([C@H]2C[C@H](O)[C@@H](CO)O2)C=2N=C(NC(C2N1)=O)N | C17H19N5O5
